US07696223B2
c) {[1-(4-Fluoro-benzyl)-4-hydroxy-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
Prepared in analogy to that of Example 1(e) from 4-acetoxy-1-(4-fluoro-benzyl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 372 (M+H)+.

reactant | 4-acetoxy-1-(4-fluoro-benzyl)-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2C)C)CC2=CC=C(C=C2)F)OC(C)=O | C21H21FN2O4
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | {[1-(4-Fluoro-benzyl)-4-hydroxy-2,3-dimethyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | FC1=CC=C(CN2C(=C(C=3C2=CN=C(C3O)C(=O)NCC(=O)O)C)C)C=C1 | C19H18FN3O4
